US07622471B2
(1-Benzhydrylazetidin-3-yl)dimethylamine
5% Palladium-carbon (1.5 g) was added to 1-benzhydrylazetidin-3-one (1.50 g) obtained from Referential Example 100 and 40% aqueous dimethylamine (4 mL) in methanol (30 mL). The resultant mixture was subjected to catalytic reduction in a hydrogen atmosphere overnight. The catalyst was filtered off, and then the solvent of the filtrate was evaporated under reduced pressure. The residue was purified through silica gel column chromatography (chloroform-methanol), to thereby give the title compound as a solid (1.55 g, 92%).

reactant | 1-benzhydrylazetidin-3-one | 1.50 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)=O | C16H15NO
reactant | dimethylamine | 4 mL | CNC | C2H7N
reactant | hydrogen | [H][H] | H2
solvent | methanol | 30 mL | CO | CH4O
catalyst | Palladium-carbon | 1.5 g | [C].[Pd]
product | (1-Benzhydrylazetidin-3-yl)dimethylamine | 1.55 g, 92% | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)N(C)C | C18H22N2
